US05180735
In dichloromethane (1.5 ml) was dissolved 1-(2-chloromethylbenzyl)thiomethyl-2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy-1,4-cyclohexanediol (300 mg). To the solution was added dropwise, under ice-cooling, chloroacetylisocyanate (84 μl). The mixture was stirred for 15 minutes, to which was added water to suspend the reaction. The product was extracted with ethyl acetate. The extract solution was washed with a saturated aqueous solution of sodium chloride, followed by drying over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by means of a silica gel column chromatography (carrier 30 g, developing solvent : methyl acetate - hexane=1:2) to give 4-(N-chloroacetylcarbamoyloxy)-1-(2-chloromethylbenzyl)thiomethyl-2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxycyclohexanol (302 mg: yield 79%) as colorless powder.

reactant | 1-(2-chloromethylbenzyl)thiomethyl-2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy-1,4-cyclohexanediol | 300 mg | ClCC1=C(CSCC2(C(C(C(CC2)O)OC)C2(C(CC=C(C)C)O2)C)O)C=CC=C1 | C24H35ClO4S
reactant | chloroacetylisocyanate | 84 μl | ClCC(=O)N=C=O | C3H2ClNO2
reactant | water | O | H2O
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
product | 4-(N-chloroacetylcarbamoyloxy)-1-(2-chloromethylbenzyl)thiomethyl-2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxycyclohexanol | 302 mg, yield 79% | ClCC(=O)NC(=O)OC1C(C(C(CC1)(O)CSCC1=C(C=CC=C1)CCl)C1(C(CC=C(C)C)O1)C)OC | C27H37Cl2NO6S
